### PR TITLE
[Merged by Bors] - feat: immersions in the sense of differentials

### PR DESCRIPTION
**Pull request by grunweg**
Define immersions in the sense of differentials: f is an immersion at x (in the sense of differentials) of its `mfderiv` at `x` splits, i.e. admits a continuous left inverse. 
Future PRs will show that under mild conditions, this is equivalent to being an immersion at `x`. (There are counterexamples otherwise, for instance involving manifolds with boundary.) For this reason, we still develop this notion explicitly.

We prove that being a differential immersion behaves nicely under composition; this follows almost immediately from the chain rule. Future PRs will use this to prove that composition of immersions are immersions, under mild hypotheses: note that this is not obvious from their definition.

From the path towards immersions, embeddings and submanifolds.

---

- [x] depends on: #35057
- [x] depends on: #35284

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
This PR is ready for review now.

**Review by sgouezel — COMMENTED** [review]
I am confused by the terminology. We have `ContinuousAt`, `DifferentiableAt` and so on, but we never talk about continuous points, or differentiable points, or whatever. So I wonder why you chose the current terminology for the PR, because it looks very similar to these other notions to me.

I understand that there is a conflict with the already existing notion `IsImmersionAt`. If I get it correctly, the plan is to show that the two notions are equivalent, so is there really a need to define a full API for the new notion? Or do you plan to have the two notions on a parallel level, and one should use one or the other depending on the context?

**Comment by grunweg** [comment]
Good points! Regarding terminology, I worked on the submersions case first - there, we have standard textbook terminology of regular points and regular values, and have the theorem that f being a submersion at f x implies x is a regular point. This is trying to name the analogous concept for immersions.

For submersions, having both `IsSubmersionAt` and "y is a regular value" seem useful to have. (Choosing a regular value of a smooth map is a common operation in textbook proofs, for example.) I don't have as strong evidence for immersed points being a useful concept on paper. It does occur in some cases (e.g., for a simple pseudo-holomorphic curve, a generic point is an immersed point, and choosing such a point can matter) for sure.

"Can we just have one concept?" Sadly, it's complicated --- as you noted, being an immersion at x and x being an immersed point are equivalent in many cases (such as, in the Banach manifold setting when there's no boundary) --- but the equivalence proof only works under such mild hypotheses. Completeness is absolutely necessary (otherwise, you have no hope of applying the inverse function theorem). For the boundary behaviour, note that the inverse function theorem also requires some conditions on the boundary behaviour (see e.g. [here](https://github.com/leanprover-community/mathlib4/pull/40643/changes#diff-2c4a02e58ad1545d5a3dad46a4f50ea25a048e91ee46caa36c42a66cba2714a4R62)); here's an example for immersions (due to Margalef-Roig's textbook, page 133):
consider the smooth map $$f: [0,1)\to \mathbb{R}\times[0,1), t\mapsto (t, t^2)$$. Its differential at 0 is $$df(0)\equiv (1,0)$$, which is injective (hence has a continuous left inverse), so `0` is an immersed point. However, `f` is not an immersion at `0` in the sense of mathlib.
Bildschirmfoto vom 2026-08-20 00-04-50

**Comment by grunweg** [comment]
I am happy to extend the module doc-string to indicate such counterexamples --- but perhaps that should happen in the follow-up PR relating these two concepts.

**Comment by sgouezel** [comment]
Regular values are definitely useful, as this is a concept which is completely different from all the continuity-like properties: it says "for all preimages, something happens", which is of a different nature. However, the same is not true for regular points or immersed points, so I think for them we should be coherent in our naming terminology and pick a Mathlib-like name. What about something like `IsDiffImmersionAt` (for "it's an immersion on the level of the differential)? With a docstring explaining that, in nice situations, it's equivalent to `IsImmersionAt` and the latter should be favored, but since it's not always equivalent we will still develop a minimal API for the new notion?

**Comment by grunweg** [comment]
That sounds like a good idea thanks - I will edit this PR accordingly.

**Comment by grunweg** [comment]
I just updated the PR description, names and docs accordingly.

File: Mathlib/Geometry/Manifold/ImmersionDiff.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
+/-
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersionDiff.lean:1]: The file name should also be changed.

File: Mathlib/Geometry/Manifold/ImmersedPoint.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+`IsDiffImmersionAt` always behaves nicely under composition: future PRs will use the above
+equivalence to prove that immersions compose (in nice situations).
+
+## Main definitions and results
+
+* `IsDiffImmersionAt`: `f` is an immersion at `x` in the sense of differentials
+  iff `mfderiv I J f x` has a continuous left inverse
+* `IsLocalDiffeomorphAt.isDiffImmersionAt`: if `f` is a local diffeomorphism at `x`, then `f` is an
+  immersion at `x` in the sense of differentials.
+* `IsDiffImmersionAt.comp`: `f` is an immersion at `x`, and `g` is an immersion at `f x`
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersedPoint.lean]:
```suggestion
* `IsDiffImmersionAt.comp`: if `f` is an immersion at `x`, and `g` is an immersion at `f x`
```

File: Mathlib/Geometry/Manifold/ImmersedPoint.lean [hunk 3]
```diff
@@ -0,0 +1,175 @@
...
+
+variable {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+  {M' : Type*} [TopologicalSpace M'] [ChartedSpace H' M']
+  {N : Type*} [TopologicalSpace N] [ChartedSpace G N]
+  {N' : Type*} [TopologicalSpace N'] [ChartedSpace G' N']
+  {n : WithTop ℕ∞} [IsManifold I n M] [IsManifold I' n M']
+variable {f : M → M'} {x : M} {n : WithTop ℕ∞}
+
+variable (I I' f x) in
+/-- We say a map `f : M → M` is an immersionat `x` in the sense of differentials
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersedPoint.lean]:
```suggestion
/-- We say a map `f : M → M` is an immersion at `x` in the sense of differentials
```

File: Mathlib/Geometry/Manifold/ImmersedPoint.lean [hunk 4]
```diff
@@ -0,0 +1,175 @@
...
+lemma mdifferentiableAt (hf : IsDiffImmersionAt I I' f x) : MDiffAt f x :=
+  mdifferentiableAt_of_mfderiv_injective hf.mfderiv_injective
+
+lemma continuousAt (hf : IsDiffImmersionAt I I' f x) : ContinuousAt f x :=
+  hf.mdifferentiableAt.continuousAt
+
+lemma congr (hf : IsDiffImmersionAt I I' f x) (hfg : g =ᶠ[𝓝 x] f) : IsDiffImmersionAt I I' g x := by
+  rwa [isDiffImmersionAt_iff, hfg.mfderiv_eq]
+
+-- This proof requires further lemmas relating the tangent bundles of `M`, `M'` and `M × M'`.
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersedPoint.lean]: Don't we already have these (see `equivTangentBundleProd` and lemmas around)?

Comment (grunweg) [reply Mathlib/Geometry/Manifold/ImmersedPoint.lean]: Hm... I remember trying something like this and running into issues, but trying again it now works like a charm. I'll happily take it - fixed now.

**Comment by grunweg** [comment]
All comments addressed again.

**Comment by grunweg** [comment]
Let's hope merging master fixes the CI failure.

File: Mathlib/Geometry/Manifold/ImmersionDiff.lean [hunk 5]
```diff
@@ -0,0 +1,174 @@
...
+
+public import Mathlib.Geometry.Manifold.LocalDiffeomorph
+public import Mathlib.Geometry.Manifold.Notation
+public import Mathlib.Analysis.Normed.Module.ContinuousInverse
+
+/-! # Immersions in the sense of differentials
+
+Given a map `f : M → N` between manifolds, we say `f` is an immersion in the sense of differentials
+at `x` if and only if the `mfderiv` of `f` at `x` *splits*, i.e. admits a continuous left inverse.
+(If `M` is finite-dimensional, this is equivalent to injectivity of the `mfderiv`.)
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersionDiff.lean]:
```suggestion
(If `N` is finite-dimensional, this is equivalent to injectivity of the `mfderiv`.)
```

File: Mathlib/Geometry/Manifold/ImmersionDiff.lean [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+  apply (h.comp_isLocalDiffeomorphAt_right hg.localInverse_isLocalDiffeomorphAt hn).congr
+  symm
+  exact Filter.eventuallyEq_of_mem (hf hg.localInverse_eventuallyEq_left) (by intro; simp)
+
+/-- If `mfderiv I J f x` is injective and `N` is finite-dimensional, then `f` is an immersion
+(in the sense of differentials) at `x`. -/
+lemma of_injective_of_finiteDimensional [CompleteSpace 𝕜] [FiniteDimensional 𝕜 E']
+    (hf' : Injective (mfderiv% f x)) : IsDiffImmersionAt I I' f x := by
+  have : FiniteDimensional 𝕜 (TangentSpace I' (f x)) := inferInstanceAs (FiniteDimensional 𝕜 E')
+  have : T2Space (TangentSpace% (f x)) := inferInstanceAs (T2Space E')
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ImmersionDiff.lean]: What about having instances for these? `I` contains the info on `E` and `𝕜`, so these instances should be possible. (I think I made the same comment on the Levi-Civita PR, so you might want to wait for the other PR to be merged?)

Also, instead of `TangentSpace% (f x)` (on the second line), I'd write `TangentSpace I' (f x)` (like on the first line): I understand the use of delaborators when things are complicated, but here they just get in the way IMHO.

**Review by sgouezel — COMMENTED** [review]
bors d+

**Comment by grunweg** [comment]
Thanks for the review!
bors merge

**Comment by grunweg** [comment]
bors' error looks intermittent and unrelated to this PR: let's try again.
bors retry
